US05488149
10.5 g of tert-butyl 2-(3,4-dichlorobenzyl)acetoacetate (which was prepared by treating 3,4-dichlorobenzyl chloride and tert-butyl acetoacetate with potassium tert-butoxide in tert-butanol) was dissolved in 100 ml of tetrahydrofuran, and 45 ml of a 1M tetrahydrofuran solution of lithium tri-sec-butylborohydride was added thereto with stirring under cooling to -70° C. The mixture was stirred at the same temperature for 1 hour. Then, 20 ml of water and 15 ml of a 3N sodium hydroxide aqueous solution were added to the reaction solution, and 15 ml of a 30% hydrogen peroxide aqueous solution was dropwise added thereto with stirring under cooling to -20° C. The mixture was stirred at room temperature for 1 hour. Then, hexane was added to the reaction solution, and the organic layer was collected by separation, then washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=10/1→5/1) to obtain 3.79 g (yield: 33%) of tert-butyl (2RS, 3RS)-2-(3,4-dichlorobenzyl)-3-hydroxybutanoate.

reactant | tert-butyl 2-(3,4-dichlorobenzyl)acetoacetate | 10.5 g | ClC=1C=C(CC(C(=O)OC(C)(C)C)C(=O)C)C=CC1Cl | C15H18Cl2O3
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 20 ml | O | H2O
product | tert-butyl (2RS, 3RS)-2-(3,4-dichlorobenzyl)-3-hydroxybutanoate | 3.79 g, yield: 33% | ClC=1C=C(CC(C(=O)OC(C)(C)C)C(C)O)C=CC1Cl | C15H20Cl2O3
